US08937091B2
Cinnamoylbenzene 8194
Benzene (1 mL), cinnamoyl chloride (0.160 mg), and aluminium chloride (150 mg) were reacted in carbon disulfide (5 mL) at from 0° C. to room temperature for 2 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (35 mg).

reactant | Benzene | 1 mL | C1=CC=CC=C1 | C6H6
reactant | cinnamoyl chloride | 0.160 mg | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | aluminium chloride | 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 5 mL | C(=S)=S | CS2
product | Cinnamoylbenzene | 35 mg | C(C=CC1=CC=CC=C1)(=O)C1=CC=CC=C1 | C15H12O
